US04108982
1.00 g of 1,3-dimethyl-5-phenyl-4-(2-oxazolin-2-yl)aminopyrazole is dissolved in a little methanol, and ethanolic hydrochloric acid is added thereto until a weakly acid reaction is obtained. The resulting solution is evaporated to dryness, and the evaporation residue is washed several times with diethylether to obtain 1.15 g of 1,3-dimethyl-5-phenyl-4-(2-oxazolin-2-yl)aminopyrazole hydrochloride, mp 211° to 213°.

reactant | 1,3-dimethyl-5-phenyl-4-(2-oxazolin-2-yl)aminopyrazole | 1.00 g | CN1N=C(C(=C1C1=CC=CC=C1)NC=1OCCN1)C | C14H16N4O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1,3-dimethyl-5-phenyl-4-(2-oxazolin-2-yl)aminopyrazole hydrochloride | 1.15 g | Cl.CN1N=C(C(=C1C1=CC=CC=C1)NC=1OCCN1)C | InChI=1S/C14H16N4O.ClH/c1-10-12(16-14-15-8-9-19-14)13(18(2)17-10)11-6-4-3-5-7-11;/h3-7H,8-9H2,1-2H3,(H,15,16);1H
